US06765012B2
3-[{4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-4-fluoro-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-Diethylamino-propoxy)-3-fluoro-phenylamine (720 mg, 1.5 equiv.) and 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (358 mg, 2.00 mmol) are reacted to give the named compound as a yellow solid (541 mg, 67%).

reactant | 4-(3-Diethylamino-propoxy)-3-fluoro-phenylamine | 720 mg, 1.5 equiv. | C(C)N(CCCOC1=C(C=C(C=C1)N)F)CC | C13H21FN2O
reactant | 4-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.00 mmol, 358 mg | FC1=C2C(C(NC2=CC=C1)=O)=CO | C9H6FNO2
product | 3-[{4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-4-fluoro-1,3-dihydro-indol-2-one | 541 mg, 67% | C(C)N(CCCOC1=C(C=C(C=C1)NC=C1C(NC2=CC=CC(=C12)F)=O)F)CC | C22H25F2N3O2
